US04537967
1.1 g of triethyl amine was added to a suspension of 1-oxo-1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid (1.0 g) in 10 ml of acetonitrile. The suspension was cooled by ice and a solution of 3-acetylthio-2-methyl propionic chloride in 5 ml of acetonitrile was added drop by drop, the 3-acetylthio-2-methyl propionic chloride being prepared by adding 2.0 g of thionyl chloride to a benzene solution of 3-acethylthio-2-methylpropionic acid (0.85 g), stirring overnight at room temperature and distilling off the solvent and the excess amount of thionyl chloride. The mixture was then stirred for two hours at room temperature, the solvent distilled off, 20 ml of ethylacetate and 10 ml of water added, then the solution was shaken and the organic phase separated. After washing the organic phase, it was dried over anhydrous Glauber's salt, the solvent distilled off and then purified by silicagel column chromatography (benzene-acetic acid; 50:1 V/V) to obtain 1.05 g of 2-(3-acetylthio-2 -methylpropionyl)-1-oxo-1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid as an oily material.

reactant | triethyl amine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | 1-oxo-1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid | 1.0 g | O=C1NC(CC2=CC=CC=C12)C(=O)O | C10H9NO3
reactant | 3-acetylthio-2-methyl propionic chloride | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
reactant | thionyl chloride | 2.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(3-acetylthio-2 -methylpropionyl)-1-oxo-1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid | 1.05 g | C(C)(=O)SCC(C(=O)N1C(C2=CC=CC=C2CC1C(=O)O)=O)C | C16H17NO5S
